US08633207B2
To 2-(2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetamido)benzamide (230 mg, 1.03 mmol) were added 1,2-dichloroethane (8 mL), TEA (5.75 mL, 41.2 mmol) and chlorotrimethylsilane (2 mL, 15.45 mmol) and the mixture was heated at 85° C. in a sealed vessel overnight. The mixture was allowed to cool and then was concentrated under reduced pressure. The residue was diluted with EtOAc and washed with saturated aq NaHCO3 and brine. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 0-12% MeOH/DCM to afford 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol (210 mg, 69%). LC-MS (ESI) m/z 293 (M+H)+.

reactant | 2-(2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetamido)benzamide | 1.03 mmol, 230 mg | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(C1=NC=C(C=N1)F)F | C13H9F3N4O2
reactant | chlorotrimethylsilane | 15.45 mmol, 2 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol | 210 mg, 69% | FC(C1=NC2=CC=CC=C2C(=N1)O)(C1=NC=C(C=N1)F)F | C13H7F3N4O
